US08604036B2
3-(6-Oxo-1,6-dihydropyridazin-3-yl)benzonitrile
7.3 g of 3-acetylbenzonitrile are converted into the pyridazinone in accordance with GWP 1.

reactant | 3-acetylbenzonitrile | 7.3 g | C(C)(=O)C=1C=C(C#N)C=CC1 | C9H7NO
reactant | pyridazinone | N=1NC(C=CC1)=O | C4H4N2O
product | 3-(6-Oxo-1,6-dihydropyridazin-3-yl)benzonitrile | O=C1C=CC(=NN1)C=1C=C(C#N)C=CC1 | C11H7N3O
